US07553845B2
Synthesis of methyl [8-(benzyloxy)-2-methylindolizin-1-yl]carboxylate
This compound is obtained according to the same procedure as the compound of Preparation III using the Tschitschibabin reaction, starting with 25.82 g of methyl 2-[3-(benzyloxy)pyridin-2-yl]acetate [according to J. Med. Chem.; (1996), 39(19), 3636-3658] and chloroacetone.

reactant | methyl 2-[3-(benzyloxy)pyridin-2-yl]acetate | 25.82 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)CC(=O)OC | C15H15NO3
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | methyl [8-(benzyloxy)-2-methylindolizin-1-yl]carboxylate | C(C1=CC=CC=C1)OC1=CC=CN2C=C(C(=C12)C(=O)OC)C | C18H17NO3
